US07871998B2
N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-methoxyphenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-D-valine
A mixture of [4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-methoxyphenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetic acid (0.0153 g, 0.031 mmol), tert-butyl glycyl-D-valinate hydrochloride (0.0099 g, 0.037 mmol) and N-methylmorpholine (0.010 ml, 0.091 mmol) in DCM (2 ml) was stirred at room temperature. TBTU (0.016 g, 0.050 mmol) was added and the mixture was stirred for 3.5 h. Trifluoroacetic acid (0.5 ml) was added and after 3.5 h the solvent was removed under reduced pressure. The residue was purified by preparative HPLC on a Kromasil C8-column using a gradient of 5-100% MeCN in 0.15% trifluoroacetic acid buffer as eluent. The solvent was removed under reduced pressure and 0.015 g (74%) of the title product was obtained. M/z 652.20.

reactant | [4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-methoxyphenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetic acid | 0.031 mmol, 0.0153 g | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(=O)C1=CC=C(C=C1)OC)C1=CC=C(OCC(=O)O)C=C1 | C26H22FNO6S
reactant | tert-butyl glycyl-D-valinate hydrochloride | 0.037 mmol, 0.0099 g | Cl.NCC(=O)N[C@H](C(C)C)C(=O)OC(C)(C)C
reactant | N-methylmorpholine | 0.091 mmol, 0.010 ml | CN1CCOCC1 | C5H11NO
reactant | TBTU | 0.050 mmol, 0.016 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | Trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-methoxyphenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-D-valine | 0.015 g, 74% | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(=O)C1=CC=C(C=C1)OC)C1=CC=C(OCC(=O)NCC(=O)N[C@H](C(C)C)C(=O)O)C=C1 | C33H34FN3O8S
